US07307084B2
AM. N-(2-Benzyloxy-4-bromo-6-nitro-phenyl)-2,2,2-trifluoro-acetamide
A solution of 50 g (155 mmol) 2-benzyloxy-4-bromo-6-nitro-aniline in 400 ml dioxane was treated with 44 ml (310 mmol) trifluoroacetic anhydride and transferred to an autoclave. The reaction was heated at 120° C. for 3 h and after cooling to room temperature, the solvent was removed in vacuo. The residue was crystallized from ethanol to afford 53.6 g (83%) of the title compound as a grey solid. m.p. 146°-147° C.

reactant | 2-benzyloxy-4-bromo-6-nitro-aniline | 155 mmol, 50 g | C(C1=CC=CC=C1)OC1=C(N)C(=CC(=C1)Br)[N+](=O)[O-] | C13H11BrN2O3
reactant | trifluoroacetic anhydride | 310 mmol, 44 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | N-(2-Benzyloxy-4-bromo-6-nitro-phenyl)-2,2,2-trifluoro-acetamide | 53.6 g, 83% | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)Br)[N+](=O)[O-])NC(C(F)(F)F)=O | C15H10BrF3N2O4
